US06891033B2
In a 250-ml three-necked flask, thymidine and dimethoxytrityl chloride in anhydrous pyridine are introduced in succession under inert gas and stirred for 2 hours at room temperature. The TLC control test of the reaction (V(MeOH):V(CH2Cl2)=1:19) shows the 5′-O-protected compound (Rf=0.26) to be the main product. It also contains one faint spot each for the starting material (Rf=0.00) and the doubly protected byproduct, 3′,5′-bis-O-(4,4′-dimethoxytrityl)thymidine (Rf=0.71). The reaction solution is then decanted slowly into 1.5 l of vigorously stirred ice water. After 30 minutes of stirring, the yellow suspension is suction-filtered, and the residual moisture is removed from the solid in the rotary evaporator by azeotropic distillation two times with ethanol. Alternatively, the raw product is recrystallized from a benzene-acetone mixture or is purified by means of column chromatography (silica gel 60; Ø=6 cm; h=45 cm; V(MeOH):V(CH2Cl2)=1:19+0.1% of triethylamine; absorbed on about 20 g of silica gel 60). After drying in high vacuum, it yields the product, 5′-O-(4,4′-dimethoxytrityl)thymidine.

reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | dimethoxytrityl chloride | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC1)OC | C21H19ClO2
reactant | 3′,5′-bis-O-(4,4′-dimethoxytrityl)thymidine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)O[C@H]2C[C@@H](O[C@@H]2COC(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)N2C(=O)NC(=O)C(C)=C2)C=C1 | C52H50N2O9
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5′-O-(4,4′-dimethoxytrityl)thymidine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C31H32N2O7
